US09428510B2
7.62 ml (99 mmol) of trifluoroacetic acid is added to 2.5 g (4.95 mmol) of tert-butyl 2-(N-(4,4-difluorocyclohexyl)-2,2,2-trifluoroacetamido)-4-(4-methylpiperazin-1-yl)benzoate dissolved in 30 ml of dichloromethane. The reaction is left under stirring at room temperature overnight. The solvent is evaporated and then the crude reaction product is redissolved in 30 ml of ethyl acetate. The solvents are evaporated, the solid formed is redissolved in ethyl ether and the solvent is evaporated again. This operation is repeated three times until a light brown solid is obtained. 2.2 g of 2-(N-(4,4-difluorocyclohexyl)-2,2,2-trifluoroacetamido)-4-(4-methylpiperazin-1-yl)benzoic acid in the form of a trifluoroacetic salt is obtained (yield=79%).

reactant | trifluoroacetic acid | 99 mmol, 7.62 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 2-(N-(4,4-difluorocyclohexyl)-2,2,2-trifluoroacetamido)-4-(4-methylpiperazin-1-yl)benzoate | 4.95 mmol, 2.5 g | FC1(CCC(CC1)N(C(C(F)(F)F)=O)C1=C(C(=O)OC(C)(C)C)C=CC(=C1)N1CCN(CC1)C)F | C24H32F5N3O3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-(N-(4,4-difluorocyclohexyl)-2,2,2-trifluoroacetamido)-4-(4-methylpiperazin-1-yl)benzoic acid | 2.2 g, yield=79% | FC1(CCC(CC1)N(C(C(F)(F)F)=O)C1=C(C(=O)O)C=CC(=C1)N1CCN(CC1)C)F | C20H24F5N3O3
